US08541411B2
b) 2-methyl-1-{[2-methyl-3-(trifluoromethyl)phenyl]methyl}-6-(4-morpholinyl)-4-(1H-1,2,4-triazol-3-yl)-1H-benzimidazole
A mixture of 2-methyl-1-{[2-methyl-3-(trifluoromethyl)phenyl]methyl}-6-(4-morpholinyl)-1H-benzimidazole-4-carboxamide (0.52 g, 1.202 mmol) in N,N-dimethylformamide dimethyl acetal (30 mL, 224 mmol) was stirred at 105° C. for 2 hours and the reaction is complete. The reaction was concentrated under reduced pressure. To the crude material was added Acetic Acid (30 mL) and hydrazine monohydrate (0.264 mL, 8.42 mmol). The reaction mixture was stirred at 100° C. for 1 h and concentrated. The crude was purified using silica gel (0˜2% MeOH/DCM) to give the product (0.245 g, 42%). 1H NMR (400 MHz, DMSO-d6) δ ppm 2.48 (s, 3H), 2.56 (s, 3H), 3.10-3.15 (m, 4H), 3.67-3.79 (m, 4H), 5.62 (s, 2H), 6.37 (d, J=7.83 Hz, 1H), 7.19 (d, J=2.02 Hz, 1H), 7.26 (t, J=7.83 Hz, 1H), 7.55 (d, J=1.77 Hz, 1H), 7.62 (d, J=7.58 Hz, 1H), 8.09 (s, 1H), 13.83 (s, 1H). MS (ES+) m/e 457.1[M+H]+.

reactant | 2-methyl-1-{[2-methyl-3-(trifluoromethyl)phenyl]methyl}-6-(4-morpholinyl)-1H-benzimidazole-4-carboxamide | 1.202 mmol, 0.52 g | CC1=NC2=C(N1CC1=C(C(=CC=C1)C(F)(F)F)C)C=C(C=C2C(=O)N)N2CCOCC2 | C22H23F3N4O2
reactant | N,N-dimethylformamide dimethyl acetal | 224 mmol, 30 mL | COC(N(C)C)OC | C5H13NO2
reactant | hydrazine monohydrate | 8.42 mmol, 0.264 mL | O.NN
solvent | Acetic Acid | 30 mL | C(C)(=O)O | C2H4O2
product | 2-methyl-1-{[2-methyl-3-(trifluoromethyl)phenyl]methyl}-6-(4-morpholinyl)-4-(1H-1,2,4-triazol-3-yl)-1H-benzimidazole | 0.245 g, 42% | CC1=NC2=C(N1CC1=C(C(=CC=C1)C(F)(F)F)C)C=C(C=C2C2=NNC=N2)N2CCOCC2 | C23H23F3N6O
